US04307094
In a manner analogous to that described in Example 32, from methyl 2,3,5,8-tetrahydro-2-(3-acetylthiopropyl)-1,3-dioxo-1H-1,2,4-triazolo[1,2-a]pyridazine-5-carboxylate there was obtained in 35% yield 2,3,5,8-tetrahydro-2-(3-mercaptopropyl)-1,3-dioxo-1H-1,2,4-triazolo[1,2-a]pyridazine-5-carboxylic acid of melting point 119°-121° C. (from ethyl acetate/hexane).

reactant | methyl 2,3,5,8-tetrahydro-2-(3-acetylthiopropyl)-1,3-dioxo-1H-1,2,4-triazolo[1,2-a]pyridazine-5-carboxylate | C(C)(=O)SCCCN1C(N2N(CC=CC2C(=O)OC)C1=O)=O | C13H17N3O5S
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 2,3,5,8-tetrahydro-2-(3-mercaptopropyl)-1,3-dioxo-1H-1,2,4-triazolo[1,2-a]pyridazine-5-carboxylic acid | 35% yield | SCCCN1C(N2N(CC=CC2C(=O)O)C1=O)=O | C10H13N3O4S
